US05075330
According to the procedure of Example 62, 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-lH-indole-3-methanamine is reacted with 1.1 eq of methyl isocyanate in dioxane/water (2:1) in the absence of sodium acetate. The crude product is purified by column chromatography (silica gel) eluting with a gradient of acetone/hexane to give pure 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-N-[(methylamino)carbonyl]-lH-indole-3-methanamine (51%) as an amorphous solid.

reactant | 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-lH-indole-3-methanamine | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CNO)C)C=C1 | C18H17ClN2O3
reactant | methyl isocyanate | 1.1 eq | CN=C=O | C2H3NO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | dioxane water | O1CCOCC1.O
product | 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-N-[(methylamino)carbonyl]-lH-indole-3-methanamine | 51% | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CN(C(=O)NC)O)C)C=C1 | C20H20ClN3O4
